US06521666B1
DEAD (0.13 mL) was added to an ice-cooled solution of N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(hydroxymethyl)phenyl]-L-phenylalanine tert-butyl ester (250 mg), triphenylphosphine (175 mg) and succinimide (90 mg) in THF (3 mL) under N2. The mixture was stirred at 0° C. for 30 min, and warmed to room temperature and stirred for 2 h. The mixture was partitioned between H2O and EtOAc, and the aqueous layer was extracted with EtOAC. The combined organic layer was dried (MgSO4), and concentrated in vacuo. The residue was purified by preparative TLC (silica gel; eluent: EtOAc/hexane 1:1) to give N-(2,6-dichlorobenzoyl)4-[2,6-dimethoxy-4-(succinimidomethyl)phenyl]-L-phenylalanine tert-butyl ester (138 mg).

reactant | DEAD | 0.13 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(hydroxymethyl)phenyl]-L-phenylalanine tert-butyl ester | 250 mg | C(C)(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)CO)OC)=O | C29H31Cl2NO6
reactant | triphenylphosphine | 175 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | succinimide | 90 mg | C1(CCC(N1)=O)=O | C4H5NO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(2,6-dichlorobenzoyl)4-[2,6-dimethoxy-4-(succinimidomethyl)phenyl]-L-phenylalanine tert-butyl ester | 138 mg | C(C)(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)CN1C(CCC1=O)=O)OC)=O | C33H34Cl2N2O7
